US07737141B2
Synthesis of {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid tert-butyl ester
1-Bromo-3,4,5-trifluorobenzene (446 μL) was dropwise added to a diethylether suspension (5 mL) of magnesium (249 mg) over 10 min at 40° C. The resulting reaction solution was stirred at 40° C. for 1 hr and then dropwise added to a tetrahydrofuran solution (30 mL) of (S)-3-benzyloxymethyl-5-oxomorpholine-4-carboxylic acid tert-butyl ester (1.1 g) over 10 min at −40° C. The resulting reaction solution was stirred at −40° C. for 1 hr, and a saturated ammonium chloride aqueous solution was gradually added dropwise thereto at −40° C. The resulting reaction solution was warmed up to room temperature, and then ethyl acetate was added thereto. The organic layer was separated, washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to give 952 mg of the title compound. The physical property values of this compound were as follows:

reactant | 1-Bromo-3,4,5-trifluorobenzene | 446 μL | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | magnesium | 249 mg | [Mg] | Mg
reactant | (S)-3-benzyloxymethyl-5-oxomorpholine-4-carboxylic acid tert-butyl ester | 1.1 g | C(C)(C)(C)OC(=O)N1[C@H](COCC1=O)COCC1=CC=CC=C1 | C17H23NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | diethylether | 5 mL | C(C)OCC | C4H10O
product | {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamic acid tert-butyl ester | 952 mg | C(C)(C)(C)OC(N[C@H](COCC(C1=CC(=C(C(=C1)F)F)F)=O)COCC1=CC=CC=C1)=O | C23H26F3NO5
